US06008229
To a solution of 3-(phthalimido)propionic acid (6.0 g) and triethylamine (2.77 g) in benzene (60 ml) was added diphenylphosphoryl azide (7.53 g), and the mixture was refluxed for 40 minutes. Tert-butanol (4.23 g) was added thereto, and the mixture was refluxed overnight. After cooling, the reaction mixture was washed with saturated sodium bicarbonate solution, water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by flash chromatography (n-hexane-ethyl acetate) and crystallized from diisopropyl ether to give N-(2-tert-butoxycarbonylaminoethyl)phthalimide (5.74 g) as colorless crystals.

reactant | 3-(phthalimido)propionic acid | 6.0 g | C1(C=2C(C(N1CCC(=O)O)=O)=CC=CC2)=O | C11H9NO4
reactant | triethylamine | 2.77 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 7.53 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Tert-butanol | 4.23 g | C(C)(C)(C)O | C4H10O
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | N-(2-tert-butoxycarbonylaminoethyl)phthalimide | 5.74 g | C(C)(C)(C)OC(=O)NCCN1C(C=2C(C1=O)=CC=CC2)=O | C15H18N2O4
